US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide
10% Hydrochloric acid (2 mL) was added to a solution of 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide (950 mg, 1.58 mmol) in methanol (20 mL). The reaction was stirred at ambient temperature for 1 hour, saturated sodium bicarbonate solution added and the methanol evaporated. The aqueous residue was taken to pH2 and extracted with ethyl acetate. The extracts were combined, washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with ethyl acetate, to give the desired compound (400 mg) which was recrystallised from ethyl acetate (mpt 173° C.-175° C.).

reactant | Hydrochloric acid | 2 mL | Cl | ClH
reactant | 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide | 1.58 mmol, 950 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC(=NS3)C)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)F | C29H37FN4O5SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide | 400 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC(=NS3)C)C=C(C2)O[C@H](CO)C)C=C1)F | C23H23FN4O5S
